US07718808B2
2-Acetylfuran (5.1 g, 4.6.0 mmol) was dissolved in a mixed solvent of dichloromethane (50 mL) and methanol (50 mL), and tetra(n-butyl)ammonium bromide (22.3 g, 46.0 mmol) was added thereto, followed by stirring at room temperature for 1 hour. The reaction mixture was concentrated under reduced pressure, water was added to the resulting residue, followed by extraction with ethyl acetate. The organic layer was washed with a saturated aqueous solution of sodium chloride and dried over anhydrous magnesium sulfate; and then the solvent was distilled away under reduced pressure. The resulting residue was dissolved in acetonitrile (60 mL), thiourea (3.5 g, 46.0 mmol) was added thereto, followed by stirring at room temperature for 30 minutes. The precipitated solid was collected by filtration, and the resulting solid was dissolved in a mixed solvent of a saturated aqueous solution of sodium hydrogencarbonate and ethyl acetate, and subjected to liquid-liquid separation. The organic layer was washed with a saturated aqueous solution of sodium chloride and dried over anhydrous magnesium sulfate, and then the solvent was distilled away under reduced pressure. The resulting residue was purified through silica gel column chromatography (hexane:ethyl acetate=3:1) to afford 2-amino-4-(2-furyl)thiazole (1.53 g, 20%).

reactant | 2-Acetylfuran | 5.1 g | C(C)(=O)C=1OC=CC1 | C6H6O2
reactant | thiourea | 46.0 mmol, 3.5 g | NC(=S)N | CH4N2S
solvent | dichloromethane | 50 mL | ClCCl | CH2Cl2
solvent | methanol | 50 mL | CO | CH4O
catalyst | tetra(n-butyl)ammonium bromide | 46.0 mmol, 22.3 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 2-amino-4-(2-furyl)thiazole | 1.53 g, 20% | NC=1SC=C(N1)C=1OC=CC1 | C7H6N2OS
